US08003649B2
tert-Butyl 1,4-diazepane-1-carboxylate (4.00 g, 20.0 mmol) was added to a mixture of diisopropylethylamine (4.11 mL, 23.7 mmol) and 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine (4.0 g, 18.2 mmol) in ethanol (80 mL). The mixture was heated under reflux for 6 hours and then allowed to cool to ambient temperature to give a precipitate. The precipitate was collected by filtration, washed with ethanol, and dried under vacuum to afford tert-butyl 4-[3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazin-6-yl]-1,4-diazepane-1-carboxylate (5.94 g, 85.4%) as a white solid. 1H NMR (300.132 MHz, DMSO) δ 1.15 (9H, d), 1.72-1.93 (2H, m), 3.27-3.39 (2H, m), 3.50-3.63 (2H, m), 3.66-3.75 (2H, m), 3.83 (2H, t), 7.46-7.56 (1H, m), 8.19-8.31 (1H, m); apparently as a mixture of rotamers; m/z 387 (M+H)+.

reactant | tert-Butyl 1,4-diazepane-1-carboxylate | 20.0 mmol, 4.00 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | diisopropylethylamine | 23.7 mmol, 4.11 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazine | 18.2 mmol, 4.0 g | ClC1=NN2C(C=C1)=NN=C2C(F)(F)F | C6H2ClF3N4
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | tert-butyl 4-[3-(trifluoromethyl)-[1,2,4]triazolo[3,4-f]pyridazin-6-yl]-1,4-diazepane-1-carboxylate | 5.94 g, 85.4% | FC(C1=NN=C2C=CC(=NN21)N2CCN(CCC2)C(=O)OC(C)(C)C)(F)F | C16H21F3N6O2
